US06603005B2
A mixture of 1.8 g of ethyl 1-(2-chloroethyl)-4-[3-(3-fluoroquinolin-4-yl)propyl]piperidine-4-carboxylate monohydrochloride, 0.48 cm3 of thiophene-2-thiol, 2.8 g of potassium carbonate and 0.75 g of potassium iodide in 200 cm3 of anhydrous acetonitrile was stirred under an inert atmosphere for 18 hours at a temperature in the region of 70° C. After cooling to about 20° C., the suspension was filtered, washed with 3 times 30 cm3 of acetonitrile and the filtrate was then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 50° C. The evaporation residue was purified by chromatography under atmospheric pressure, on a column of silica gel (particle size 20-45μ; diameter 6 cm; height 30 cm), eluting with ethyl acetate and collecting 50-cm3 fractions. Fractions 25 to 52 were combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 1.3 g of ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]-1-[2-(thiophen-2-ylthio)ethyl]piperidine-4-carboxylate were obtained in the form of a viscous orange-colored oil.

reactant | ethyl 1-(2-chloroethyl)-4-[3-(3-fluoroquinolin-4-yl)propyl]piperidine-4-carboxylate monohydrochloride | 1.8 g | Cl.ClCCN1CCC(CC1)(C(=O)OCC)CCCC1=C(C=NC2=CC=CC=C12)F
reactant | thiophene-2-thiol | 0.48 cm3 | S1C(=CC=C1)S | C4H4S2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.75 g | [I-].[K+]
solvent | acetonitrile | 200 cm3 | C(C)#N | C2H3N
product | ethyl 4-[3-(3-fluoroquinolin-4-yl)propyl]-1-[2-(thiophen-2-ylthio)ethyl]piperidine-4-carboxylate | 1.3 g | FC=1C=NC2=CC=CC=C2C1CCCC1(CCN(CC1)CCSC=1SC=CC1)C(=O)OCC | C26H31FN2O2S2
